US07741513B2
D. Use of Salt (S)-5 for Determining the Lower Limit for the ee of (R)-1-Bromo-1-(2-naphthyl)ethane, (R)-7a: Single-Reaction Method 1.
A 5 mm NMR tube was charged with 4.7 mg (0.010 mmol) of crystals of salt (S)-5. This readily dissolved in CDCl3 to 5 cm depth. NMR spectra (1H and 19F) showed 5 with a low level (7 mole %) of ethanol impurity. This was mixed with 2 mg of crystals of (R)-7a ([α]D≈+23°). Note that excess 5 is necessary to assure complete reaction of 7a, thus avoiding kinetic sorting at the end. NMR (1H and 19F) of this solution showed 5 and 7a in 1:0.82 mole ratio. After 30 min. at 20° C., the spectra showed 30% conversion of 7a cleanly to (S,S) and (S,R) diastereomers in ˜2.5:1 ratio. At 18 h, NMR showed 97% conversion to 3:1 mixture of the diastereomers (de≈50%). No more 7a was detected after an additional 24 h at 25° C. The final integration ratio of the two singlets at −69.42 and −69.28 ppm in the 19F NMR spectrum was 2.8 (de≧47%)* for the major (S,S)-6a and minor (S,R)-6a diastereomers. Proton NMR assignments for these are, respectively: 3.54 and 3.49 (q, CH3O, 5JHF=1.7 Hz), 1.76 and 1.71 (d, CH3CH, 3JHH=7 Hz), 4.89 and 4.91 (overlapping q, CH3CH) and 7.18-7.95 ppm (m, 12 aryl H, not resolved). Note that large crystals of the HBr salt of PROTON SPONGE (12-HBr) separated in the course of this reaction but did not interfere with NMR acquisitions and integrations.

reactant | HBr | Br | BrH
reactant | PROTON SPONGE | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | ethanol | C(C)O | C2H6O
product | (R)-1-Bromo-1-(2-naphthyl)ethane | Br[C@H](C)C1=CC2=CC=CC=C2C=C1 | C12H11Br
